US08623889B2
Step 2: N-(5-((dimethyl amino)methyl)-7-(5-fluoro-2-methyl-phenyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide
To a slurry of N-(7-(5-fluoro-2-methylphenyl)-5-formyl-2,6-naphthyridin-3-yl)cyclopropanecarboxamide (30 mg, 0.08 mmol) in methylene chloride (0.5 mL) was added a 2.0M solution of dimethylamine in tetrahyrdofuran (0.052 mL, 0.1 mmol) and the reaction mixture was stirred at room temperature. After 1 hour, sodium triacetoxyborohydride (27 mg, 0.13 mmol) was added, and the reaction mixture was stirred for another 1 hour at room temperature. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by reverse phase HPLC (5-85% acetonitrile in water with 0.1% ammonium hydroxide over 14 min) to afford the title compound as a pale yellow solid (22 mg, 70%). 1H NMR (400 MHz, DMSO) δ 11.07 (s, 1H), 9.28 (s, 1H), 8.96 (s, 1H), 8.03 (s, 1H), 7.41-7.28 (m, 2H), 7.18 (td, J=8.5, 2.8 Hz, 1H), 3.92 (s, 2H), 2.36 (s, 3H), 2.25 (s, 6H), 2.14-2.07 (m, 1H), 0.87 (m, 4H). LCMS (Method E): RT=3.929 min, M+H+=379.1.

reactant | N-(7-(5-fluoro-2-methylphenyl)-5-formyl-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | 0.08 mmol, 30 mg | FC=1C=CC(=C(C1)C1=NC(=C2C=C(N=CC2=C1)NC(=O)C1CC1)C=O)C | C20H16FN3O2
reactant | dimethylamine | CNC | C2H7N
reactant | tetrahyrdofuran | 0.1 mmol, 0.052 mL | O1CCCC1 | C4H8O
reactant | sodium triacetoxyborohydride | 0.13 mmol, 27 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(5-((dimethyl amino)methyl)-7-(5-fluoro-2-methyl-phenyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | 22 mg, 70% | CN(C)CC1=C2C=C(N=CC2=CC(=N1)C1=C(C=CC(=C1)F)C)NC(=O)C1CC1 | C22H23FN4O
